US04532240
N-[4-[4-(2,4-Diamino-6-methyl-5-pyrimidinyl)-1-piperazinyl]benzoyl]-L-glutamic acid diethyl ester
A mixture of 4.27 g (0.01137 mole) of 4-[4-(2,4-diamino-6-methyl-5-pyrimidinyl)-1-piperazinyl]benzoic acid hydrochloride, 6.12 g (0.0375 mole) of diethyl phosphorocyanidate and 7.0 ml (0.050 mole) of triethylamine in 300 ml of previously dried dimethylformamide was stirred at room temperature for five hours and then at 80° C. for five minutes. The solution was cooled to room temperature, and a solution of 3.00 g (0.0125 mole) of L-glutamic acid diethyl ester hydrochloride and 1.74 ml (0.0125 mole) of triethylamine was added. The resulting mixture was stirred for two hours at room temperature. The solvent was removed under high vacuum at 40° C. and the gummy residue partitioned between 500 ml of dichloromethane and 500 ml of 5% sodium bicarbonate solution. The organic layer was separated, washed with water and then with saturated sodium chloride solution and dried over magnesium sulfate. The dried solution was concentrated in vacuo to give a yellow solid. Recrystallization from acetonitrile gave 3.9 g of the product as a tan solid, mp 224° C. (dec.).

reactant | 4-[4-(2,4-diamino-6-methyl-5-pyrimidinyl)-1-piperazinyl]benzoic acid hydrochloride | 0.01137 mole, 4.27 g | Cl.NC1=NC(=C(C(=N1)N)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1)C
reactant | diethyl phosphorocyanidate | 0.0375 mole, 6.12 g | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | triethylamine | 0.050 mole, 7.0 ml | C(C)N(CC)CC | C6H15N
reactant | L-glutamic acid diethyl ester hydrochloride | 0.0125 mole, 3.00 g | Cl.C(C)OC([C@@H](N)CCC(=O)OCC)=O
reactant | triethylamine | 0.0125 mole, 1.74 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-[4-[4-(2,4-Diamino-6-methyl-5-pyrimidinyl)-1-piperazinyl]benzoyl]-L-glutamic acid diethyl ester | 3.9 g | C(C)OC([C@@H](NC(C1=CC=C(C=C1)N1CCN(CC1)C=1C(=NC(=NC1C)N)N)=O)CCC(=O)OCC)=O | C25H35N7O5
